* spicelib\examples\testfiles\all_components.asc
* Hand crafted to match the most important variants we encounter. 
* This file is not meant to be used in a simulation.
B1 NC_01 NC_02 V=1 tc1=2
B2 NC_01 NC_02 V=V(1) < {Vlow} ? {Vlow} : V(1) > {Vhigh} ? {Vhigh} : V(1) delay=1
B3 NC_01 NC_02 I=cos(v(1))+sin(v(2)) ic=1e-6 delay=10
B4 NC_01 NC_02 R=V(1) < 0? 2 : 1
B5 NC_01 NC_02 B=V(NC_01) VprXover=50mV

C1 NC_03 NC_04 10µ
D1 NC_05 NC_06 1N914
E1 NC_07 NC_08 NC_09 NC_10 1
F1 NC_11 NC_12 I1
G1 NC_13 NC_14 NC_15 NC_16 1
H1 NC_17 NC_18 I1
I1 NC_19 NC_20 1
J1 NC_21 NC_22 NC_23 2N3819
L2 NC_24 NC_25 1
L3 NC_26 NC_27 1
L1 NC_28 NC_29 1
M1 NC_30 NC_31 NC_32 NC_33 BSP89
O1 NC_34 NC_35 NC_36 NC_37 LTRA
Q1 NC_38 NC_39 NC_40 0 2N2222
R1 NC_41 NC_42 1
S1 NC_43 NC_44 NC_45 NC_46 SW
T1 NC_47 NC_48 NC_49 NC_50 Td=50n Z0=50
U2 NC_51 NC_52 NC_53 URC
V1 NC_54 NC_55 1
W1 NC_56 NC_57 CSW W
X§U1 NC_58 NC_59 NC_60 NC_61 NC_62 AD549
Z1 NC_63 NC_64 NC_65 NMF
.model D D
.lib standard.dio
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NJF NJF
.model PJF PJF
.lib standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos
K1 L2 L3 1
* This is XU1
.lib ADI1.lib
.backanno
.end
